US04247551
N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(4-methyl-1-piperazinyl)-3-piridazineamine.
A mixture of 7 g (35 m moles) of 3-hydrazino-6-(4-methyl-1-piperazinyl)-pyridazine and 4.1 g (36 m moles) of 2,5-hexanedione in 100 ml of acetic acid is heated for 3 hours at 70° C. The solvent is evaporated off under vacuum and the oily residue is dissolved in water and made alkaline with 10% sodium hydroxyde. The mixture is extracted with ethyl acetate and the organic layer is evaporated to dryness in vacuo. The solid residue is crystallized first from ethyl ether and then from ethyl acetate yielding 2.6 g (26%) of the product of the title which melts at 181°-182° C.

reactant | 3-hydrazino-6-(4-methyl-1-piperazinyl)-pyridazine | 7 g | N(N)C=1N=NC(=CC1)N1CCN(CC1)C | C9H16N6
reactant | 2,5-hexanedione | 4.1 g | CC(CCC(C)=O)=O | C6H10O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | N-(2,5-Dimethyl-1H-pyrrol-1-yl)-6-(4-methyl-1-piperazinyl)-3-piridazineamine | CC=1N(C(=CC1)C)NC=1N=NC(=CC1)N1CCN(CC1)C | C15H22N6
